US06660738B2
A solution of 15.5 g (32.59 mmol) (2S,4R)-2-Hydroxymethyl-4-tritylsulfanyl-pyrrolidine-1-carboxylic acid tert-butyl ester and 24.7 g (109.77 mmol) 2,4,5-trifluoro-benzylbromide in 700 ml DMF at 0° C. was treated with 2.28 g (52.14 mmol) of 55% NaH in 4 portions and warmed up to RT during 7 h. The reaction was cooled to 0° C. and treated with 500 ml aqueous saturated NH4Cl solution, extracted with EtOAc (3×). The organic phase was washed with 10% NaCl dried over Na2SO4 and evaporated. Flash column chromatography on silica gel with hexane/EtOAc (9:1 to 8.5:1.5) gave 9.37 g (46%) of (2S,4R)-2-(2,4,5-Trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidine-1-carboxylic acid tert-butyl ester, MS: 620 (MH+).

reactant | (2S,4R)-2-Hydroxymethyl-4-tritylsulfanyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 32.59 mmol, 15.5 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CO | C29H33NO3S
reactant | 2,4,5-trifluoro-benzylbromide | 109.77 mmol, 24.7 g | FC1=C(CBr)C=C(C(=C1)F)F | C7H4BrF3
reactant | NaH | 52.14 mmol, 2.28 g | [H-].[Na+]
reactant | NH4Cl | 500 ml | [NH4+].[Cl-]
solvent | DMF | 700 ml | CN(C)C=O | C3H7NO
product | (2S,4R)-2-(2,4,5-Trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 9.37 g, 46% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)COCC1=C(C=C(C(=C1)F)F)F | C36H36F3NO3S
